US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-phenoxythiophene-2-carboxamide)
To a solution of (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-bromothiophene-2-carboxamide) (463 mg) in pyridine (10 mL) phenol (158 mg), copper iodide (32 mg) and potassium carbonate (97 mg) were added. The mixture was stirred at 125° C. for 65 h under nitrogen. Water was added and the aqueous layer was extracted with chloroform. Following evaporation, the residue was purified by flash chromatography using 5-20% 3.5M methanolic ammonia/chloroform mixtures as the eluent and then by reverse phase HPLC on a Waters Bondapak® C18 column using a gradient of acetonitrile and 0.1% aqueous trifluoroacetic acid as the eluent. The free base was prepared by basification of the product-containing fractions and extraction into chloroform followed by evaporation to gave the title compound (80 mg); MS (ES+) 329 (MH+).

reactant | (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-bromothiophene-2-carboxamide) | 463 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=CC2)Br | C12H15BrN2OS
reactant | potassium carbonate | 97 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | pyridine | 10 mL, 158 mg | N1=CC=CC=C1 | C5H5N
catalyst | copper iodide | 32 mg | [Cu](I)I
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-phenoxythiophene-2-carboxamide) | 80 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=CC2)OC2=CC=CC=C2 | C18H20N2O2S
